US05624935
2-(7-Azaindol-1-yl)ethanol
A procedure similar to that described in Preparation 2 was repeated, except that 7.50 g of methyl 7-azaindol-1-acetate (prepared as described in Preparation 17), 1.80 g of lithium aluminum hydride and 260 ml of anhydrous tetrahydrofuran were used, to give 5.57 g of the title compound, melting at 52.7°-53.3° C.

reactant | methyl 7-azaindol-1-acetate | 7.50 g | N1(C=CC2=CC=CN=C12)CC(=O)OC | C10H10N2O2
reactant | lithium aluminum hydride | 1.80 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 260 ml | O1CCCC1 | C4H8O
product | 2-(7-Azaindol-1-yl)ethanol | 5.57 g | N1(C=CC2=CC=CN=C12)CCO | C9H10N2O
